US06110924
b) Preparation of Diethyl 2-naphtylmalonate
To a solution of ethyl 2-naphtylacetate (2 g) in 23.3 ml of diethylcarbonate, kept under stirring and at room temperature, are added portionwise 0.232 g of sodium. The reaction mixture is refluxed for 2 hours 30 minutes, then it is concentrated in order to eliminate the not reacted diethylcarbonate and it is added with 20 ml of cold water. The resulting mixture is acidified with acetic acid until weak acidity is reached, then it is extracted three times with diethyl ether. The pooled organic extracts are dried over sodium sulfate and the solvent is evaporated off, to give, after recrystallization from diethyl ether (19 ml), 1.015 g of the product as a white solid.

reactant | ethyl 2-naphtylacetate | 2 g | C1=C(C=CC2=CC=CC=C12)CC(=O)OCC | C14H14O2
reactant | sodium | 0.232 g | [Na] | Na
reactant | water | 20 ml | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | diethylcarbonate | 23.3 ml | C(C)OC(OCC)=O | C5H10O3
product | Diethyl 2-naphtylmalonate | C1=C(C=CC2=CC=CC=C12)C(C(=O)OCC)C(=O)OCC | C17H18O4
